US08466282B2
N-(4-methoxybutyl)-3-nitropyridin-2-amine
2-Chloro-3-nitropyridine (3.54 g) and 4-methoxybutan-1-amine hydrochloride (3.12 g) were suspended in 2-propanol (100 ml), diisopropylethylamine (11.6 μl) was added and the mixture was heated under reflux with stirring for 4 days. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (3:7) was concentrated under reduced pressure to give the object product (4.26 g).

reactant | 2-Chloro-3-nitropyridine | 3.54 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-methoxybutan-1-amine hydrochloride | 3.12 g | Cl.COCCCCN
reactant | diisopropylethylamine | 11.6 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | N-(4-methoxybutyl)-3-nitropyridin-2-amine | 4.26 g | COCCCCNC1=NC=CC=C1[N+](=O)[O-] | C10H15N3O3
